US06245908B1
To a suspension of urea (80 g, 1.333 mols) in acetic acid (100 ml), iminostilbene hydrochloride (20.5 g, 0.089 mols) was added under stirring at 25-30° C. The resulting reaction mixture was worked up according to the method of Example 1 to produce carbamazepine, which was identical to the product of Example 1.

reactant | urea | 1.333 mols, 80 g | NC(=O)N | CH4N2O
reactant | iminostilbene hydrochloride | 0.089 mols, 20.5 g | Cl.N=C1C(C=CC=C1)C=CC1=CC=CC=C1
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | carbamazepine | C=1C=CC2=C(C1)C=CC=3C=CC=CC3N2C(=O)N | C15H12N2O
